US08377874B2
Step 2: 2-Benzyl-4-bromoisoindoline
Postassium bicarbonate (204 g, 2.04 mol) was suspended in CH3CN (12 L), and the mixture was heated to 80° C. Solutions of 1-bromo-2,3-bis(bromomethyl)benzene (280 g, 0.82 mol in 500 mL CH3CN) and benzylamine (87.5 g, 0.82 mol in 500 mL CH3CN) were added concurrently via addition funnels over 1 hour. The reaction mixture was then stirred at 77° C. for 16 hours. The contents of the reaction flask were cooled and filtered; the solvent was removed by evaporation; and the mixture was partitioned between 1M K2CO3 and EtOAc. The organic phases were washed with brine, dried with anhydrous Na2SO4, filtered, and evaporated. Flash column chromatography (gradient elution: heptane to 10% EtOAc in heptane) gave the title compound as a pale oil. 1H NMR (CDCl3) δ (ppm) 7.41-7.39 (m, 2H), 7.37-7.34 (m, 2H), 7.32-7.27 (m, 2H), 7.10-7.03 (m, 2H), 4.02 (s, 2H), 3.97 (s, 2H), 3.91 (s, 2H). LRMS (ESI) m/z 289 [(M+H)+; calcd for C15H15BrN: 289].

reactant | bicarbonate | 2.04 mol, 204 g | C([O-])(O)=O
reactant | 1-bromo-2,3-bis(bromomethyl)benzene | 0.82 mol, 500 mL, 280 g | BrC1=C(C(=CC=C1)CBr)CBr | C8H7Br3
reactant | benzylamine | 0.82 mol, 500 mL, 87.5 g | C(C1=CC=CC=C1)N | C7H9N
solvent | CH3CN | 12 L | CC#N | C2H3N
product | 2-Benzyl-4-bromoisoindoline | C(C1=CC=CC=C1)N1CC2=CC=CC(=C2C1)Br | C15H14BrN
